US07666866B2
Methyl 4-hydroxysalicylate (10.0 g, 59.5 mmol) was dissolved in DMF. Ethyl iodide (9.74 g, 62.4 mmol) was added, followed by potassium carbonate (8.63 g, 62.4 mmol), and the reaction mixture was stirred under N2 at room temperature for 18 h. The reaction mixture was concentrated in vacuo to remove the majority of the DMF, and the residue taken up in EtOAc, and washed with water (2×), dried, and concentrated in vacuo to give an off-white solid. Recrystallization from hexane gave 6.41 g, (54.9%) of methyl 4-ethoxysalicylate as an off-white solid.

reactant | Methyl 4-hydroxysalicylate | 59.5 mmol, 10.0 g | OC=1C=C(C(C(=O)OC)=CC1)O | C8H8O4
reactant | Ethyl iodide | 62.4 mmol, 9.74 g | C(C)I | C2H5I
reactant | potassium carbonate | 62.4 mmol, 8.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 4-ethoxysalicylate | 54.9% | C(C)OC=1C=C(C(C(=O)OC)=CC1)O | C10H12O4
